US07858781B2
4-Isobutoxy-1H-indole-2-carboxylic acid {1-[2-(4-hydroxy-azepan-1-yl)-ethyl]-piperidin-4-yl}-amide
This compound is synthesized analogously to example 150 from 4-isobutoxy-1H-indole-2-carboxylic acid [1-(2-hydroxy-ethyl)-piperidin-4-yl]-amide, 190 and azepan-4-ol.

reactant | 4-isobutoxy-1H-indole-2-carboxylic acid [1-(2-hydroxy-ethyl)-piperidin-4-yl]-amide | OCCN1CCC(CC1)NC(=O)C=1NC2=CC=CC(=C2C1)OCC(C)C | C20H29N3O3
reactant | azepan-4-ol | N1CCC(CCC1)O | C6H13NO
product | 4-Isobutoxy-1H-indole-2-carboxylic acid {1-[2-(4-hydroxy-azepan-1-yl)-ethyl]-piperidin-4-yl}-amide | OC1CCN(CCC1)CCN1CCC(CC1)NC(=O)C=1NC2=CC=CC(=C2C1)OCC(C)C | C26H40N4O3
